US07244729B2
Step 1.3: (3-Chloro-4-fluoro-phenyl)-[6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine
184 mg (0.5 mmol) {4-[4-(3-Chloro-4-fluoro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin -6-yl]-phenyl}-methanol are suspended in 15 ml toluene. Pyridine (44 μl, 0.55 mmol) and thionyl chloride (40 μl, 0.55 mmol) are added and the mixture is stirred at RT for 16 h. A second portion of the same amounts of pyridine and thionyl chloride are then added and the mixture stirred for 1 additional hour. The solvent is evaporated and the residue suspended in water containing a small amount of sodium bicarbonate (pH ˜8). After filtration, the product was thoroughly washed with water and ether and dried to give crude title compound; m.p. >300° C.; Rf (dichloromethane/ethanol 95:5 plus 1% conc. ammonia)=0.42; HPLC tR=11.33 min.

reactant | {4-[4-(3-Chloro-4-fluoro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin -6-yl]-phenyl}-methanol | 0.5 mmol, 184 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CO | C19H14ClFN4O
reactant | Pyridine | 0.55 mmol, 44 μl | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.55 mmol, 40 μl | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (3-Chloro-4-fluoro-phenyl)-[6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CCl | C19H13Cl2FN4
